US07524980B2
Production of 2-phenylethylhydroxylamine
To a THF solution (1.1 mL, 1.0 M) of BH3-THF (1.1 mmol) was added dropwise a THF solution (2.2 mL) of trans-β-nitrostyrene (160.0 mg, 1.1 mmol) at 0° C. under nitrogen atmosphere. NaBH4 (3.3 mg, 0.087 mmol) was added, and the mixture was stirred for 20 minutes at room temperature. Water (5 mL) was added at 0° C., and then the solution was made acidic by adding 2M HCl aqueous solution, and the solution was stirred for 4 hr at 65° C. The reaction mixture was extracted with ethyl acetate, and the aqueous layer was further extracted with ethyl acetate after the addition of 15% NaOH aqueous solution and NaCl. The organic layers were dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified by flush column chromatography (chloroform:methanol=1:0→10:1) to obtain the objective substance (62.7 mg, 43%) as white crystals.

reactant | BH3-THF | 1.1 mmol | B.C1CCOC1
reactant | trans-β-nitrostyrene | 1.1 mmol, 160.0 mg | [N+](=O)([O-])\C=C\C1=CC=CC=C1 | C8H7NO2
reactant | NaBH4 | 0.087 mmol, 3.3 mg | [BH4-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | Water | 5 mL | O | H2O
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M, 1.1 mL | C1CCOC1 | C4H8O
product | 2-phenylethylhydroxylamine | C1(=CC=CC=C1)CCNO | C8H11NO
